2159-03-17 07:12:00 Physician Resident Progress Note
TITLE: CCU Resident Progress Note
   Chief Complaint: shortness of breath
   24 Hour Events:
   please see HPI for details
   patient got K repleted overnight, put out to lasix
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-3-17**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 84 (73 - 86) bpm
   BP: 136/116(121) {91/52(1) - 136/116(121)} mmHg
   RR: 23 (16 - 32) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                     28 mL
                                                                     36 mL
   PO:
             TF:
   IVF:
                                                                     28 mL
                                                                     36 mL
   Blood products:
   Total out:
                                                                  1,955 mL
                                                                    650 mL
   Urine:
                                                                  1,955 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,927 mL
                                                                   -614 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   PS : 8 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 92%
   ABG: ///38/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   [**1-19**] way up)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   282 K/uL
   11.1 g/dL
   105 mg/dL
   1.4 mg/dL
   38 mEq/L
   3.6 mEq/L
   18 mg/dL
   101 mEq/L
   146 mEq/L
   33.7 %
   6.5 K/uL
        [image002.jpg]
                             [**2159-3-16**]  07:44 PM
                             [**2159-3-17**]  04:44 AM
   WBC
   6.5
   Hct
   33.7
   Plt
   282
   Cr
   1.4
   1.4
   TropT
   0.06
   Glucose
   109
   105
   Other labs: PT / PTT / INR:43.2/35.3/4.8, CK / CKMB /
   Troponin-T:68//0.06, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   84 y/o gentleman with history of diastolic CHF, hypertension who
   presents with acute CHF exacerbation requiring non-invasive ventilation
   # ACUTE ON CHRONIC DIASTOLIC CONGESTIVE HEART FAILURE - He has known
   hypertension and diastolic dysfunctin with normal E:A ratio, though
   this could suggest pseudonormalization. MR [**First Name (Titles) 4481**] [**Last Name (Titles) 4901**] to left
   sided failure. No evidence of ischemia by ECG or biomarkers.
   - Wean Bipap as tolerated
   - Diuresis with IV lasix gtt
 goal 2L negative
   - will plan on adding BB and ACE-I following aggressive diuresis
   - consider workup for ischemia including stress test as outpatient
   .
   # H/O DVT ON ANTICOAGULATION
   - Hold warfarin today for INR of 4.8
   .
   # Hypernatremia
 Na trending up with diuresis Na 146
 will repeat in
   pm and replete free water as needed
   .
   # MYELOMA
   - IgG numbers had been recently normal, dexamethasone held as
   outpatient secondary to fluid overload
   # CHRONIC KIDNEY DISEASE
   - Would benefit from ACE inhibition.
   # HEMATURIA
   - Outpatient urology w/u necessary. Will monitor for clots.
   # BPH
   - Continue finasteride.
   # SLEEP APNEA
   - BIPAP as needed overnight.
   # FEN
   - Lyte repletions, [**Hospital1 **] Check.
   # CODE DNR/DNI , confirmed with patient and daughter.
   ICU [**Name2 (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2159-3-16**] 04:30 PM
   20 Gauge - [**2159-3-16**] 04:30 PM
   Prophylaxis:
   DVT:  heparin SC
   Stress ulcer: PPI
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Nothing to add, agree with above
   Physical Examination
   Nothing to add, agree with above
   Medical Decision Making
   Nothing to add, agree with above
   Total time spent on patient care: 50 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 4235**] [**Name (NI) 1714**]  on:[**2159-3-17**]
   08:38 ------

2159-03-18 06:12:00 Physician Resident Progress Note
TITLE: CCU Progress Note
   Chief Complaint:
   24 Hour Events:
   - ECHO showed new 3+ MR concerning for ischemic MR [**First Name (Titles) **] [**Last Name (Titles) 4929**]
   muscle rupture
   - PM ABG 7.44/57/80
   - On BiPAP on and off all afternoon and overnight.
   - Briefly had low UOP. Increased Lasix drip and began to put out
   heavily
   - AM ABG unchanged overnight. Persistenly hypercarbic
   - Rebolused with Lasix for ongoing SOB
   - Repleting K and Mg aggressively
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2159-3-18**] 05:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-3-18**] 06:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 89 (72 - 97) bpm
   BP: 86/58(65) {86/48(37) - 126/84(89)} mmHg
   RR: 22 (16 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.5 kg (admission): 104.6 kg
   Height: 66 Inch
             Total In:
                                                                    628 mL
                                                                     60 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    188 mL
                                                                     60 mL
   Blood products:
   Total out:
                                                                  3,430 mL
                                                                    670 mL
   Urine:
                                                                  3,430 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,802 mL
                                                                   -610 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 703 (0 - 944) mL
   PS : 8 cmH2O
   RR (Spontaneous): 37
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 8 cmH2O
   SpO2: 97%
   ABG: 7.44/57/101/40/11
   Ve: 6.4 L/min
   PaO2 / FiO2: 202
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), II/VI systolic murmur
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   [**2-20**] way up)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   288 K/uL
   11.4 g/dL
   105 mg/dL
   1.4 mg/dL
   40 mEq/L
   3.2 mEq/L
   17 mg/dL
   98 mEq/L
   145 mEq/L
   33.4 %
   7.8 K/uL
        [image002.jpg]
                             [**2159-3-16**]  07:44 PM
                             [**2159-3-17**]  04:44 AM
                             [**2159-3-17**]  05:02 PM
                             [**2159-3-17**]  05:24 PM
                             [**2159-3-18**]  04:23 AM
                             [**2159-3-18**]  05:43 AM
   WBC
   6.5
   7.8
   Hct
   33.7
   33.4
   Plt
   282
   288
   Cr
   1.4
   1.4
   1.5
   1.4
   TropT
   0.06
   TCO2
   40
   40
   Glucose
   109
   105
   95
   105
   Other labs: PT / PTT / INR:44.2/35.6/4.9, CK / CKMB /
   Troponin-T:68//0.06, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   84 y/o gentleman with history of diastolic CHF, hypertension who
   presents with acute CHF exacerbation requiring non-invasive
   ventilation. Now with new 3+MR concerning for mechanical etiology vs
   worsening volume overload
   # ACUTE ON CHRONIC DIASTOLIC CONGESTIVE HEART FAILURE - He has known
   hypertension and diastolic dysfunction with normal E:A ratio, though
   this could suggest pseudonormalization. MR [**First Name (Titles) 4481**] [**Last Name (Titles) 4901**] to left
   sided failure. No evidence of ischemia by ECG or biomarkers.
   - Continue BiPAP as needed
   - Diuresis with IV lasix gtt
 goal 2L negative
   - Holding  BB and ACE-I in the setting of ongoing hypotension
   - ECHO showed Dilated left ventricle with normal global systolic
   function. Dilated and at least mildly hypokinetic right ventricle. Mild
   aortic regurgitation. Moderate to severe mitral regurgitation. Severe
   pulmonary hypertension. Compared with the prior study (images reviewed)
   of [**2159-2-15**], LV is more dilated. Mitral regurgitation severity has
   increased, and pulmonary pressure is more severe.
   .
   # MR: Concerning for ischemic MR vs volume overload.
   - Continue aggressive diuresis as above with lasix drip
   - [**Hospital 4933**] medical management prior to evaluation for possible need for
   surgical intervention
   .
   # H/O DVT ON ANTICOAGULATION
   - Hold warfarin today for INR of 4.8
   .
   # MYELOMA
   - IgG numbers had been recently normal, dexamethasone held as
   outpatient secondary to fluid overload
   # CHRONIC KIDNEY DISEASE
   - Would benefit from ACE inhibition
 currently limited by BP
   # HEMATURIA
   - Outpatient urology w/u necessary. Will monitor for clots.
   # BPH
   - Continue finasteride.
   # SLEEP APNEA
   - BIPAP as needed overnight.
   # FEN
   - Lyte repletions, [**Hospital1 **] Check.
   # CODE DNR/DNI , confirmed with patient and daughter.
   ICU [**Name2 (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-3-17**] 06:25 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add, agree with above
   Physical Examination
   nothing to add, agree with above
   Medical Decision Making
   nothing to add, agree with above
   Total time spent on patient care: 50 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 4235**] [**Name (NI) 1714**]  on:[**2159-3-18**]
   10:07 ------

2159-03-19 05:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started on Metolazone 10mg PO daily to augment Lasix gtt effect on
   UOP. Was net negative 3.1 L at MN, decreased Lasix gtt from 10->5mg/hr)
   - Repleted total KCl 140mg
   - Started on Diamox 250 q12 x 2 doses for rising bicarb (40->42 in
   afternoon)
   - Very restless at night, wrote for Ativan 0.5-1 qhs PRN in addition to
   current Ambien PRN
   S: C/o dry cough. Dyspnea improved, although not back at baseline yet.
   No CP.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-3-19**] 05:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.3
   HR: 82 (69 - 96) bpm
   BP: 106/68(77) {89/45(34) - 127/91(95)} mmHg
   RR: 19 (18 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.5 kg (admission): 104.6 kg
   Height: 66 Inch
             Total In:
                                                                  1,231 mL
                                                                    179 mL
   PO:
                                                                    990 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    241 mL
                                                                     29 mL
   Blood products:
   Total out:
                                                                  4,340 mL
                                                                    620 mL
   Urine:
                                                                  4,340 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,109 mL
                                                                   -441 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 6,000 (290 - 6,000) mL
   PS : 8 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 99%
   ABG: ///42/
   Ve: 6 L/min
   Physical Examination
   General Appearance: Awake and alert, respirations somewhat labored.
   HEENT: No JVD.
   Cardiovascular: (S1: Normal), (S2: Normal), II/VI systolic murmur. No
   rubs or gallops.
   Respirator: (Expansion: Symmetric), (Breath Sounds: Bases diminished
   with crackles)
   Abdominal: Soft, Non-tender, ND. Bowel sounds present.
   Extremities: WWP. 1+ ankle edema.
   Labs / Radiology
   305 K/uL
   12.6 g/dL
   124 mg/dL
   1.6 mg/dL
   Pnd mEq/L
   3.7 mEq/L
   17 mg/dL
   92 mEq/L
   143 mEq/L
   38.5 %
   8.4 K/uL
        [image002.jpg]
                             [**2159-3-16**]  07:44 PM
                             [**2159-3-17**]  04:44 AM
                             [**2159-3-17**]  05:02 PM
                             [**2159-3-17**]  05:24 PM
                             [**2159-3-18**]  04:23 AM
                             [**2159-3-18**]  05:43 AM
                             [**2159-3-18**]  02:45 PM
                             [**2159-3-18**]  11:17 PM
   WBC
   6.5
   7.8
   Hct
   33.7
   33.4
   Plt
   282
   288
   Cr
   1.4
   1.4
   1.5
   1.4
   1.4
   1.5
   TropT
   0.06
   TCO2
   40
   40
   Glucose
   109
   105
   95
   105
   120
   Other labs: PT / PTT / INR:29.2/31.3/3.0, Ca++:9.7 mg/dL, Mg++:2.2
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   84 y/o gentleman with history of [**Year (4 digits) 4966**] CHF, hypertension who
   presents with acute CHF exacerbation requiring non-invasive
   ventilation, as well as new 3+MR.
   # ACUTE ON CHRONIC [**Year (4 digits) **] CONGESTIVE HEART FAILURE - He has known
   hypertension, MR [**First Name (Titles) **] [**Last Name (Titles) 4966**] dysfunction. No evidence of ischemia by
   ECG or biomarkers.
   - Continue BiPAP at nighttime as needed
   - Continue diuresis with IV lasix gtt and metolazone with goal 1.5-2L
   negative for 24 hrs.
   - Holding  BB in the setting of ongoing hypotension
   - Would give dose of captopril to see if BP tolerates ACE-I. If so,
   restart longer-acting ACE-I.
   - Acetazolamide 250mg q6h for contraction metabolic alkalosis.
   .
   # MR: Concerning for ischemic MR vs volume overload.
   - Continue diuresis as above
   - [**Hospital 4933**] medical management prior to evaluation for possible need for
   surgical intervention (will d/w patient whether he would want surgery).
   .
   # H/O DVT ON ANTICOAGULATION
   - INR 3.0 today, so restarting warfarin.
   .
   # MYELOMA
   - Holding dexamethasone secondary to fluid overload
   # CHRONIC KIDNEY DISEASE
   - Trial of ACE-I, as above
   # HEMATURIA: Likely from elevated INR.
   - Outpatient urology w/u necessary. Will monitor for clots.
   # BPH
   - Continue finasteride.
   # SLEEP APNEA
   - BIPAP as needed overnight.
   # FEN
   - Lyte repletions, [**Hospital1 **] Check.
   # CODE DNR/DNI , confirmed with patient and daughter
   ICU [**Name2 (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-3-17**] 06:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add, agree with above
   Physical Examination
   nothing to add, agree with above
   Medical Decision Making
   nothing to add, agree with above
   Total time spent on patient care: 50 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 4235**] [**Name (NI) 1714**]  on:[**2159-3-19**]
   17:58 ------

2159-03-20 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2159-3-19**] 11:00 AM
 NON-INVASIVE VENTILATION - START [**2159-3-19**] 10:00 PM
   -still on lasix drip, met goal, -1.6L
   -started diamox 250mg PO q6
   -started biPAP at night for hypercarbia, would not maintain sats on
   bipap, removed and did better on 4LNC
   -restarted home coumadin dose
   -trial of captopril, held pressures
   -patient would consider valvular surgery if needed
   -got K for pm elytes
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2159-3-19**] 08:46 AM
   Coumadin (Warfarin) - [**2159-3-19**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-3-20**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 79 (72 - 86) bpm
   BP: 61/21(30) {61/10(30) - 132/67(81)} mmHg
   RR: 20 (17 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.5 kg (admission): 104.6 kg
   Height: 66 Inch
             Total In:
                                                                  1,410 mL
                                                                    207 mL
   PO:
                                                                  1,290 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    120 mL
                                                                     27 mL
   Blood products:
   Total out:
                                                                  3,290 mL
                                                                    735 mL
   Urine:
                                                                  3,290 mL
                                                                    735 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,880 mL
                                                                   -528 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.52/57/92.[**Numeric Identifier 491**]/45/20
   Physical Examination
   CV: III/VI SM at apex, JVP elevated 10 cm
   Resp: crackles B/L
   Abd: soft, NT/ND, NABS
   Ext: 2+ LE edema B/L
   Labs / Radiology
   284 K/uL
   11.8 g/dL
   125 mg/dL
   1.6 mg/dL
   45 mEq/L
   3.0 mEq/L
   22 mg/dL
   88 mEq/L
   139 mEq/L
   35.1 %
   10.2 K/uL
        [image002.jpg]
                             [**2159-3-17**]  05:24 PM
                             [**2159-3-18**]  04:23 AM
                             [**2159-3-18**]  05:43 AM
                             [**2159-3-18**]  02:45 PM
                             [**2159-3-18**]  11:17 PM
                             [**2159-3-19**]  05:55 AM
                             [**2159-3-19**]  05:15 PM
                             [**2159-3-20**]  12:26 AM
                             [**2159-3-20**]  01:23 AM
                             [**2159-3-20**]  03:40 AM
   WBC
   7.8
   8.4
   10.2
   Hct
   33.4
   38.5
   35.1
   Plt
   288
   305
   284
   Cr
   1.4
   1.4
   1.5
   1.6
   1.6
   1.6
   TCO2
   40
   40
   49
   48
   Glucose
   105
   120
   124
   142
   125
   Other labs: PT / PTT / INR:27.9/31.1/2.8, CK / CKMB /
   Troponin-T:68//0.06, Lactic Acid:1.1 mmol/L, Ca++:9.4 mg/dL, Mg++:2.3
   mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   84 y/o gentleman with history of [**Year (4 digits) 4966**] CHF, hypertension who
   presents with acute CHF exacerbation requiring non-invasive
   ventilation, as well as new 3+MR.
   # ACUTE ON CHRONIC [**Year (4 digits) **] CONGESTIVE HEART FAILURE - He has known
   hypertension, MR [**First Name (Titles) **] [**Last Name (Titles) 4966**] dysfunction. No evidence of ischemia by
   ECG or biomarkers.
   - Continue BiPAP at nighttime as needed
   - Continue diuresis with IV lasix gtt with goal 1.5L negative for 24
   hrs.
   - Holding  BB in the setting of ongoing hypotension
   - Would give dose of captopril to see if BP tolerates ACE-I. If so,
   restart longer-acting ACE-I.
   .
   # MR: Concerning for ischemic MR vs volume overload.
   - Continue diuresis as above
   - [**Hospital 4933**] medical management prior to evaluation for possible need for
   surgical intervention (will d/w patient whether he would want surgery).
   .
   # H/O DVT ON ANTICOAGULATION
   - INR 2.8 today, continue coumadin.
   .
   # MYELOMA
   - Holding dexamethasone secondary to fluid overload
   # CHRONIC KIDNEY DISEASE
   - Trial of ACE-I, as above
   # HEMATURIA: Likely from elevated INR.
   - Outpatient urology w/u necessary. Will monitor for clots.
   # BPH
   - Continue finasteride.
   # SLEEP APNEA
   - BIPAP as needed overnight.
   # FEN
   - Lyte repletions, [**Hospital1 **] Check.
   # CODE DNR/DNI , confirmed with patient and daughter
   ICU [**Name2 (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-3-17**] 06:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-3-17**] 06:25 PM
   Prophylaxis:
   DVT:  Coumadin
   Stress ulcer:
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as  per CCU TEAM
   Physical Examination
   as per CCU team
   Medical Decision Making
   Critically ill due to acute on chronic systolic and [**Year (4 digits) 4966**] heart
   failure, severe mitral regurgitation, chronic renal failure.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   visit date 3.3.9
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Name (NI) **], MD
   on:[**2159-3-23**] 09:48 ------

2159-03-21 05:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Somewhat agitated after ambien, improved with OOB to chair
   Decreased BP around 2am (added back lisinopril today and lasix gtt),
   SBPs 60s. Given 250cc bolus. Repeat SBP 78 then 86. Mentating fine. No
   dizziness, lightheadedness, oriented x 3. Held lasix gtt this am
   S: No CP or SOB.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2159-3-20**] 09:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-3-21**] 05:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 77 (68 - 83) bpm
   BP: 90/33(47) {61/21(30) - 110/76(83)} mmHg
   RR: 18 (15 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.5 kg (admission): 104.6 kg
   Height: 66 Inch
             Total In:
                                                                    997 mL
                                                                    474 mL
   PO:
                                                                    920 mL
                                                                    200 mL
   TF:
   IVF:
                                                                     77 mL
                                                                    274 mL
   Blood products:
   Total out:
                                                                  2,090 mL
                                                                    420 mL
   Urine:
                                                                  2,090 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,093 mL
                                                                     54 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///41/
   Physical Examination
   Gen: A+O x3, NAD
   HEENT: MM dry
   CV: RRR, [**2-23**] HSM at apex No JVD
   Pulm: Bibasilar rales
   Abd: NABS S NT ND
   Ext: 2+ radial and DP pulses, trace ankle edema
   Labs / Radiology
   261 K/uL
   10.7 g/dL
   108 mg/dL
   1.8 mg/dL
   45 mEq/L
    3.2 mEq/L
   28 mg/dL
   92 mEq/L
   141 mEq/L
   31.6 %
   8.2 K/uL
        [image002.jpg]
                             [**2159-3-18**]  05:43 AM
                             [**2159-3-18**]  02:45 PM
                             [**2159-3-18**]  11:17 PM
                             [**2159-3-19**]  05:55 AM
                             [**2159-3-19**]  05:15 PM
                             [**2159-3-20**]  12:26 AM
                             [**2159-3-20**]  01:23 AM
                             [**2159-3-20**]  03:40 AM
                             [**2159-3-20**]  06:55 PM
                             [**2159-3-21**]  04:46 AM
   WBC
   8.4
   10.2
   8.2
   Hct
   38.5
   35.1
   31.6
   Plt
   [**Telephone/Fax (3) 5004**]
   Cr
   1.4
   1.5
   1.6
   1.6
   1.6
   1.6
   TCO2
   40
   49
   48
   Glucose
   120
   124
   142
   125
   151
   Other labs: PT / PTT / INR:27.9/31.1/2.8, CK / CKMB /
   Troponin-T:68//0.06, Lactic Acid:1.1 mmol/L, Ca++:8.5 mg/dL, Mg++:2.1
   mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   84 y/o gentleman with history of [**Telephone/Fax (3) 4966**] CHF, hypertension who
   presents with acute CHF exacerbation requiring non-invasive
   ventilation, as well as new 3+MR.
   # HYPOTENSION:
    Has been a problem recently with antihypertensives, and we did restart
   lisinopril last night at
 his previously known dose, though this
   certainly can contribute. He does not appear cold, and is mentating.
   will check cultures, hold on further diuresis and will let him
   equilibtrate today.
   Will check [**Last Name (un) **] stim, though low suspicion of adrenal insufficiency.
   # ACUTE ON CHRONIC [**Last Name (un) **] CONGESTIVE HEART FAILURE
   He has known hypertension, MR [**First Name (Titles) **] [**Last Name (Titles) 4966**] dysfunction. No evidence of
   ischemia by ECG or biomarkers.
   Holding lasix gtt for now.
   .
   # MR: Concerning for ischemic MR vs volume overload.
   - Continue diuresis as above
   - [**Hospital 4933**] medical management prior to evaluation for possible need for
   surgical intervention (will d/w patient whether he would want surgery).
   .
   # H/O DVT ON ANTICOAGULATION
   - therapeutic on warfarin.
   .
   # MYELOMA
   - Holding dexamethasone secondary to fluid overload
   # CHRONIC KIDNEY DISEASE
   - Trial of ACE-I, as above
   # HEMATURIA: Likely from elevated INR.
   - Outpatient urology w/u necessary. Will monitor for clots.
   # BPH
   - Continue finasteride.
   # SLEEP APNEA
   - BIPAP as needed overnight.
   # FEN
   - Lyte repletions, [**Hospital1 **] Check.
   # CODE DNR/DNI , confirmed with patient and daughter
   ICU [**Name2 (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-3-21**] 02:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   Critically ill due to acute on chronic systolic and [**Year (4 digits) 4966**] CHF,
   severe mitral regurgitation, chronic renal failure.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/5/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Name (NI) **], MD
   on:[**2159-3-24**] 08:52 ------
   ERROR
 date of service was 3/4/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Name (NI) **], MD
   on:[**2159-3-24**] 08:52 ------

2159-03-22 06:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   BPs remaining 80s/40s. UOP worsened, although mentating well. Given
   500cc bolus with improvement to 100s/50s.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-3-22**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 73 (68 - 80) bpm
   BP: 93/51(61) {73/37(48) - 103/55(65)} mmHg
   RR: 19 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.5 kg (admission): 104.6 kg
   Height: 66 Inch
                  Total In:
                                                                  2,174 mL
                                                                    480 mL
   PO:
                                                                    900 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,274 mL
   Blood products:
   Total out:
                                                                    880 mL
                                                                    305 mL
   Urine:
                                                                    880 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,294 mL
                                                                    175 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///39/
   Physical Examination
   Gen: A+O x3, NAD
   HEENT: MM dry
   CV: RRR, [**2-23**] HSM at apex No JVD
   Pulm: Bibasilar rales
   Abd: NABS S NT ND
   Ext: 2+ radial and DP pulses, trace ankle edema
   Labs / Radiology
   261 K/uL
   10.7 g/dL
   93 mg/dL
   1.7 mg/dL
   39 mEq/L
   3.0 mEq/L
   34 mg/dL
   93 mEq/L
   137 mEq/L
   31.6 %
   8.2 K/uL
        [image002.jpg]
                             [**2159-3-18**]  02:45 PM
                             [**2159-3-18**]  11:17 PM
                             [**2159-3-19**]  05:55 AM
                             [**2159-3-19**]  05:15 PM
                             [**2159-3-20**]  12:26 AM
                             [**2159-3-20**]  01:23 AM
                             [**2159-3-20**]  03:40 AM
                             [**2159-3-20**]  06:55 PM
                             [**2159-3-21**]  04:46 AM
                             [**2159-3-22**]  12:35 AM
   WBC
   8.4
   10.2
   8.2
   Hct
   38.5
   35.1
   31.6
   Plt
   [**Telephone/Fax (3) 5004**]
   Cr
   1.4
   1.5
   1.6
   1.6
   1.6
   1.6
   1.8
   1.7
   TCO2
   49
   48
   Glucose
   120
   124
   142
   125
   151
   108
   93
   Other labs: PT / PTT / INR:24.1/30.9/2.3, CK / CKMB /
   Troponin-T:68//0.06, Lactic Acid:1.1 mmol/L, LDH:282 IU/L, Ca++:8.4
   mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   84 y/o gentleman with history of [**Telephone/Fax (3) 4966**] CHF, hypertension who
   presents with acute CHF exacerbation requiring non-invasive
   ventilation, as well as new 3+MR.
   # ACUTE ON CHRONIC [**Telephone/Fax (3) **] CONGESTIVE HEART FAILURE
   He has known hypertension, MR [**First Name (Titles) **] [**Last Name (Titles) 4966**] dysfunction. No evidence of
   ischemia by ECG or biomarkers.
   - Will contnue lasix gtt as BP tolerates
   - Acute exacerbation secondary to severe MR
   .
   # MR: Concerning for ischemic MR
   - The pt has declined workup for possible surgery, unlikely to return
   to basline functional status with medical therapy alone
   - Will continue lasix gtt without bolus
   - After discussion on patient during rounds today, pt would like to
   focus care on being at home and on comfort.
   - Will place palliative care consult
   .
   # HYPOTENSION: holding antihypertensives
   .
   # H/O DVT ON ANTICOAGULATION
   - therapeutic on warfarin.
   .
   # MYELOMA
   - Holding dexamethasone secondary to fluid overload
   # CHRONIC KIDNEY DISEASE
   - Trial of ACE-I, as above
   # HEMATURIA: Likely from elevated INR.
   - Outpatient urology w/u necessary. Will monitor for clots.
   # BPH
   - Continue finasteride.
   # SLEEP APNEA
   - BIPAP as needed overnight.
   # FEN
   - Lyte repletions, [**Hospital1 **] Check.
   # CODE DNR/DNI , confirmed with patient and daughter, [**Name (NI) 5035**] care
   consult
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-3-21**] 09:34 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: PPI
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   Critically ill due to acute on chronic systolic and [**Year (4 digits) 4966**] CHF,
   severe mitral regurgitation, chronic renal failure.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/5/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Name (NI) **], MD
   on:[**2159-3-24**] 08:54 ------

2159-03-23 05:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -80mg IV bolus and followed by lasix drip at 10mg/hr
   -1L negative, BP improved
   -got ativan for sleep
   S: Breathing improved. No CP, cough, palpitations.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2159-3-22**] 08:00 AM
   Coumadin (Warfarin) - [**2159-3-22**] 04:00 PM
   Furosemide (Lasix) - [**2159-3-22**] 06:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-3-23**] 05:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 78 (71 - 84) bpm
   BP: 99/65(73) {90/46(56) - 126/73(85)} mmHg
   RR: 22 (13 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.5 kg (admission): 104.6 kg
   Height: 66 Inch
             Total In:
                                                                  1,184 mL
                                                                     92 mL
   PO:
                                                                  1,030 mL
             TF:
   IVF:
                                                                    154 mL
                                                                     92 mL
   Blood products:
   Total out:
                                                                  1,712 mL
                                                                  1,480 mL
   Urine:
                                                                  1,712 mL
                                                                  1,480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -528 mL
                                                                 -1,388 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///39/
   Physical Examination
   Gen: Alert in NAD
   HEENT: MM dry
   CV: RRR, [**2-23**] HSM at apex No JVD
   Pulm: L base diminished with R basilar rales and scattered L rales
   Abd: NABS S NT ND
   Ext: 2+ radial pulses, WWP, trace ankle edema
   Labs / Radiology
   300 K/uL
   12.1 g/dL
   121 mg/dL
   1.4 mg/dL
   39 mEq/L
   3.3 mEq/L
   32 mg/dL
   92 mEq/L
   139 mEq/L
   35.1 %
   9.1 K/uL
        [image002.jpg]
                             [**2159-3-20**]  12:26 AM
                             [**2159-3-20**]  01:23 AM
                             [**2159-3-20**]  03:40 AM
                             [**2159-3-20**]  06:55 PM
                             [**2159-3-21**]  04:46 AM
                             [**2159-3-22**]  12:35 AM
                             [**2159-3-22**]  06:30 AM
                             [**2159-3-22**]  03:10 PM
                             [**2159-3-23**]  02:03 AM
                             [**2159-3-23**]  02:12 AM
   WBC
   10.2
   8.2
   9.2
   9.1
   Hct
   35.1
   31.6
   33.3
   35.1
   Plt
   [**Telephone/Fax (3) 5052**]00
   Cr
   1.6
   1.6
   1.8
   1.7
   1.5
   1.5
   1.4
   TCO2
   49
   48
   Glucose
   125
   151
   108
   93
   97
   95
   121
   Other labs: PT / PTT / INR:26.3/30.4/2.6, CK / CKMB /
   Troponin-T:68//0.06, Lactic Acid:1.1 mmol/L, LDH:282 IU/L, Ca++:8.4
   mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan:
   84 y/o gentleman with history of [**Telephone/Fax (3) 4966**] CHF, hypertension who
   presents with acute CHF exacerbation requiring non-invasive
   ventilation, as well as new 3+MR.
   # ACUTE ON CHRONIC [**Telephone/Fax (3) **] CONGESTIVE HEART FAILURE
   He has known hypertension, MR [**First Name (Titles) **] [**Last Name (Titles) 4966**] dysfunction. No evidence of
   ischemia by ECG or biomarkers.
   - Will contnue lasix gtt as BP tolerates
   - Acute exacerbation secondary to severe MR
   .
   # MR: Concerning for ischemic MR
   - The pt has declined workup for possible surgery, unlikely to return
   to basline functional status with medical therapy alone
   - Will continue lasix gtt without bolus
   - After discussion on patient during rounds today, pt would like to
   focus care on being at home and on comfort.
   - Will place palliative care consult
   .
   # HYPOTENSION: holding antihypertensives
   .
   # H/O DVT ON ANTICOAGULATION
   - therapeutic on warfarin.
   .
   # MYELOMA
   - Holding dexamethasone secondary to fluid overload
   # CHRONIC KIDNEY DISEASE
   - Trial of ACE-I, as above
   # HEMATURIA: Likely from elevated INR.
   - Outpatient urology w/u necessary. Will monitor for clots.
   # BPH
   - Continue finasteride.
   # SLEEP APNEA
   - BIPAP as needed overnight.
   # FEN
   - Lyte repletions, [**Hospital1 **] Check.
   # CODE DNR/DNI , confirmed with patient and daughter, [**Name (NI) 5035**] care
   consult
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-3-21**] 09:34 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: PPI
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: CCU

2159-03-24 05:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Continued lasix gtt at 10. K 2.9. 3L negative so decreased gtt to 5,
   then off.
   BP tolerated well and Cr relatively stable.
   ALso had leaking around foley, bladder spasms. Ordered pyridium with
   improvement and UA and cx .
   S: No CP, SOB, or palp. Slept well.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2159-3-23**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-3-24**] 05:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 81 (75 - 84) bpm
   BP: 106/59(71) {83/41(52) - 116/66(78)} mmHg
   RR: 14 (14 - 23) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.5 kg (admission): 104.6 kg
   Height: 66 Inch
             Total In:
                                                                  1,128 mL
                                                                     25 mL
   PO:
                                                                    830 mL
             TF:
   IVF:
                                                                    298 mL
                                                                     25 mL
   Blood products:
   Total out:
                                                                  4,580 mL
                                                                    580 mL
   Urine:
                                                                  4,580 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,452 mL
                                                                   -555 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///43/
   Physical Examination
   Gen: Alert in NAD
   HEENT: MM dry
   CV: RRR, [**2-23**] HSM at apex No JVD
   Pulm: Bases diminished. Otherwise clear.
   Abd: NABS S NT ND
   Ext: WWP, trace ankle edema
   Labs / Radiology
   300 K/uL
   12.1 g/dL
   117 mg/dL
   1.5 mg/dL
   43 mEq/L
   2.9 mEq/L
   36 mg/dL
   90 mEq/L
   141 mEq/L
   35.1 %
   9.1 K/uL
        [image002.jpg]
                             [**2159-3-20**]  01:23 AM
                             [**2159-3-20**]  03:40 AM
                             [**2159-3-20**]  06:55 PM
                             [**2159-3-21**]  04:46 AM
                             [**2159-3-22**]  12:35 AM
                             [**2159-3-22**]  06:30 AM
                             [**2159-3-22**]  03:10 PM
                             [**2159-3-23**]  02:03 AM
                             [**2159-3-23**]  02:12 AM
                             [**2159-3-23**]  05:20 PM
   WBC
   10.2
   8.2
   9.2
   9.1
   Hct
   35.1
   31.6
   33.3
   35.1
   Plt
   [**Telephone/Fax (3) 5052**]00
   Cr
   1.6
   1.6
   1.8
   1.7
   1.5
   1.5
   1.4
   1.5
   TCO2
   48
   Glucose
   125
   151
   108
   93
   97
   95
   121
   117
   Other labs: PT / PTT / INR:26.3/30.4/2.6, CK / CKMB /
   Troponin-T:68//0.06, Lactic Acid:1.1 mmol/L, LDH:282 IU/L, Ca++:8.4
   mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   84 y/o gentleman with history of diastolic CHF, hypertension who
   presents with acute CHF exacerbation requiring non-invasive
   ventilation, as well as new 3+MR.
   # ACUTE ON CHRONIC DIASTOLIC CONGESTIVE HEART FAILURE
 In setting of
   worsened MR.  Pt already net negative 1L from MN to 8 am today.
   - Would aim to keep pt 2L negative for today. Continue lasix gtt and
   follow I/O closely.
   - If becoming less net negative, consider bolus with 40-80 IV lasix.
   - Wean O2 currently on 4L NC
   - PM lytes
   .
   # MR: Concerning for ischemic MR. The pt has declined workup for
   possible surgery, unlikely to return to baseline functional status with
   medical therapy alone. Pt would like to focus on being at home and
   comfortable.
   - Discussed with PCP
   [**Name Initial (PRE) **] [**Name9 (PRE) **] continue medical management with diuresis
   .
   # HYPOTENSION: Improving, remains stable.
   .
   # H/O DVT ON ANTICOAGULATION
   - therapeutic on warfarin.
   .
   # MYELOMA
   - Holding dexamethasone secondary to fluid overload
   # CHRONIC KIDNEY DISEASE
   - Holding ACE-I given BP drop when lisinopril attemped
   # BPH
   - Continue finasteride.
   # SLEEP APNEA
   - BIPAP as needed overnight.
   # FEN
   - Lyte repletions, [**Hospital1 **] Check.
   # CODE DNR/DNI , confirmed with patient and daughter
   ICU [**Name2 (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-3-24**] 03:25 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: